US08293768B2
Synthesis of N-(4-fluorophenyl)-4-((3-(4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzamide
Following the procedure as describe in Example 8, making variations as required to replace benzylamine with 4-fluoroaniline to react with 4-((3-(4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid, the title compound was obtained as a white powder in 16% yield: mp 206-207° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.74 (d, J=7.2 Hz, 2H), 7.52-7.44 (m, 2H), 7.23 (d, J=7.2 Hz, 2H), 6.90-6.85 (m, 2H), 6.33 (s, 1H), 4.37 (s, 2H), 3.95-3.90 (m, 2H), 3.37-3.31 (m, 2H), 2.16 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 161.0, 155.9, 146.7, 139.5, 134.2, 127.9, 127.8, 122.6, 115.3, 115.1, 106.9, 47.3, 42.2, 41.8, 16.5; MS (ES+) m/z 411.1 (M+1).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 4-((3-(4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid | CC=1N=C(SC1)N1C(N(CC1)CC1=CC=C(C(=O)O)C=C1)=O | C15H15N3O3S
product | N-(4-fluorophenyl)-4-((3-(4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzamide | 16% yield | FC1=CC=C(C=C1)NC(C1=CC=C(C=C1)CN1C(N(CC1)C=1SC=C(N1)C)=O)=O | C21H19FN4O2S
